US07781443B2
(2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(2-methoxycarbonyl-ethanesulfonyl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (141 mg) and 2N aqueous NaOH solution (384 μl) are dissolved in ethanol (3 ml), and the mixture is stirred at 50° C. for 30 minutes. To the reaction solution is added 2N aqueous HCl solution (385 μl), and stirred overnight. To the reaction mixture is added ethyl acetate, and the organic layer is washed with saturated brine and dried over magnesium sulfate, then concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; chloroform:methanol=9:1→4:1) to give (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-(5-sulfopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (64 mg). MS (m/z): 662 [M−H]−.

reactant | (2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(2-methoxycarbonyl-ethanesulfonyl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 141 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)S(=O)(=O)CCC(=O)OC)CC | C31H33F6N5O7S
reactant | NaOH | 2N, 384 μl | [OH-].[Na+]
reactant | HCl | 2N, 385 μl | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-(5-sulfopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 64 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)S(=O)(=O)O)CC | C27H27F6N5O6S
